US04716166
A solution of theophylline (10.0 g, 0.0555 mol), 1,3-dibromopropane (11.6 ml, 23.1 g, 0.114 mol) and triethylamine (10.5 ml, 7.62 g, 0.0753 mol) in N,N-dimethylformamide (250 ml) was stirred at 60° C. overnight. The stirring was continued one day at room temperature. The solvent was evaporated under reduced pressure. The residue was suspended in CH2Cl2 and water. An emulsion was caused by a fine solid suspended in the mixture. The solid was filtered out and discarded. The aqueous layer was extracted three times with CHCl3. The combined organic layers were dried with MgSO4. Evaporation of the solvent under reduced pressure gave 7-(3-bromopropyl)-3,7-dihydro-1,3-dimethyl-1H-purine-2,6-dione (12.8 g, 77% yield).

reactant | theophylline | 0.0555 mol, 10.0 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | 1,3-dibromopropane | 0.114 mol, 11.6 ml, 23.1 g | BrCCCBr | C3H6Br2
reactant | triethylamine | 0.0753 mol, 10.5 ml, 7.62 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 7-(3-bromopropyl)-3,7-dihydro-1,3-dimethyl-1H-purine-2,6-dione | 12.8 g, 77% yield | BrCCCN1C=NC=2N(C(N(C(C12)=O)C)=O)C | C10H13BrN4O2
